US07368600B2
iPrSH (20 ml) was treated slowly with gaseous HBr. Subsequently L-homoserine (10 mmol) was added and the mixture was stirred for 10 minutes. Thereafter, AlCl3 (40 mmol) was added and the reaction mixture was stirred for 4 h at room temperature. The reaction mixture was quenched using H2O/HCl and then made basic with NaOH. After filtering off Al(OH)3 by suction the filtrate solution was concentrated to dryness and analysed by HPLC. Yield of (1)=8.2%. Activation of L-homoserine at the C-4 atom and reaction to give L-methionine

reactant | HBr | Br | BrH
reactant | L-homoserine | 10 mmol | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | AlCl3 | 40 mmol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | iPrSH | 20 ml | C(C)(C)S | C3H8S
product | L-methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
